US06147078
STEP B: 6-BROMOMETHYL-3-CHLORO-1-ETHOXYCARBONYLMETHYL-PYRAZINONE
N-BROMOSUCCINIMIDE (2.61 G, 14.7 MMOL) WAS ADDED TO A STIRRED SOLUTION OF 3-CHLORO-1-ETHOXYCARBONYLMETHYL-6-METHYLPYRAZINONE (3.38 G, 14.7 MMOL) IN DRY BENZENE (50 ML). BENZOYL PEROXIDE (70%, 30 MG, 0.087 MMOL) WAS ADDED AND THE SOLUTION WAS HEATED TO 75° C. AFTER 16 H THE MIXTURE WAS PARTITIONED BETWEEN METHYLENE CHLORIDE AND 5% SODIUM METABISULFITE. THE ORGANIC LAYER WAS DRIED (NA2SO4) AND EVAPORATED IN VACUO. THE RESIDUE WAS PURIFIED BY FLASH COLUMN CHROMATOGRAPHY ON SILICA GEL (30% ETOAC/HEXANES) TO GIVE THE TITLE COMPOUND AS A CRYSTALLINE SOLID:

reactant | N-BROMOSUCCINIMIDE | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-CHLORO-1-ETHOXYCARBONYLMETHYL-6-METHYLPYRAZINONE | ClC=1C(N(C(=CN1)C)CC(=O)OCC)=O | C9H11ClN2O3
reactant | BENZOYL PEROXIDE | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | BENZENE | C1=CC=CC=C1 | C6H6
product | 6-BROMOMETHYL-3-CHLORO-1-ETHOXYCARBONYLMETHYL-PYRAZINONE | BrCC1=CN=C(C(N1CC(=O)OCC)=O)Cl | C9H10BrClN2O3
